US09126981B2
Synthesis of (S)-1-((3-benzylureido)methyl)-N-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-yl)cyclopropanecarboxamide (Compound II-1)
To a solution of 1-((3-benzylureido)methyl)cyclopropanecarboxylic acid (Compound VI-1) (182 mg, 0.77 mmol), hydroxybenzotriazol (126 mg, 0.51 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (98 mg, 0.51 mmol) in dichloromethane (1.5 ml) was added a solution of (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-2) (125 mg, 0.25 mmol) and 4-dimethylaminopyridine (16 mg, 0.13 mmol) in dichloromethane (1.5 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetated (150 ml) and washed with saturated sodium bicarbonate (50 ml), water (10 ml) and brine (15 ml). The organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by Purif silica gel column chromatography (eluent: n-hexanae:ethylacetate=50:50 to 0:100) to obtain the title compound (175 mg, 97%).

reactant | 1-((3-benzylureido)methyl)cyclopropanecarboxylic acid | 0.77 mmol, 182 mg | C(C1=CC=CC=C1)NC(NCC1(CC1)C(=O)O)=O | C13H16N2O3
reactant | hydroxybenzotriazol | 0.51 mmol, 126 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.51 mmol, 98 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide | 0.25 mmol, 125 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C | C30H40N2O4
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.13 mmol, 16 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | (S)-1-((3-benzylureido)methyl)-N-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-yl)cyclopropanecarboxamide | 175 mg, 97% | C(C1=CC=CC=C1)NC(NCC1(CC1)C(=O)N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C)=O | C43H54N4O6
